US07378417B2
7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-dimethylsulfamoyl-phenyl)-amide
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.2) and 3-amino-N,N-dimethyl-benzenesulfonamide [CAS 6274-18-6; commercially available] according to general procedure II. Yellow solid. MS (ISP) 558.3 [(M+H)+]; mp 210° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | 3-amino-N,N-dimethyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)N(C)C | C8H12N2O2S
product | 7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-dimethylsulfamoyl-phenyl)-amide | CN(S(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F)C | C23H17F6N5O3S
